US08217051B2
In a manner similar to the method described in Example 2, E/Z-6-chloro-3-furan-3-ylmethylene-1,3-dihydro-indol-2-one (1.45 g, 5.9 mmol) was reacted with di-tert-butyl-dicarbonate (1.54 g, 7.08 mmol) (Aldrich), and 4-dimethylaminopyridine (25 mg) in dichloromethane to give E/Z-6-chloro-3-furan-3-ylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow solid (Yield: 1.6 g, 79%).

reactant | Z-6-chloro-3-furan-3-ylmethylene-1,3-dihydro-indol-2-one | 5.9 mmol, 1.45 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=COC=C1 | C13H8ClNO2
reactant | di-tert-butyl-dicarbonate | 7.08 mmol, 1.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-6-chloro-3-furan-3-ylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 1.6 g, 79% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=COC=C1)=O | C18H16ClNO4
